US05461158
4-(1-benzylthio-1-methylethyl)-3-methyl-2-methylene-4-butanolide (compound No.3-2)
To a stirred suspension of zinc dust (0.77 g) activated with hydrochloric acid in THF (20 ml), 2-benzylthio-2-methylpropionaldehyde (2.00 g) dissolved in THF (10 ml) and methyl 2-bromomethylcrotonate (2.19 g) dissolved in THF (10 ml) were added dropwise in the order named at about 30° C. under nitrogen atmosphere and ultrasonic irradiation. The mixture was stirred over night at room temperature. Saturated aqueous ammonium chloride solution was added to the mixture and the mixture was filtered by celite. A reaction product was extracted with ethyl acetate from the filtrate. The organic layer was washed with 1N hydrochloric acid, water and then saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified and separated by silica gel column chromatography to give the each titled compound.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-benzylthio-2-methylpropionaldehyde | 2.00 g | C(C1=CC=CC=C1)SC(C=O)(C)C | C11H14OS
reactant | methyl 2-bromomethylcrotonate | 2.19 g | BrC/C(/C(=O)OC)=C\C | C6H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc | 0.77 g | [Zn] | Zn
product | 4-(1-benzylthio-1-methylethyl)-3-methyl-2-methylene-4-butanolide | C(C1=CC=CC=C1)SC(C)(C)C1C(C(C(=O)O1)=C)C | C16H20O2S
